US05935952
In 100 ml of anhydrous tetrahydrofuran was dissolved 10.0 g of 4-bromo-2,5-difluoro-3-methylbenzoic acid, and 9.69 g of N,N'-carbonyldiimidazole was added to the solution with ice-cooling, after which the resulting mixture was stirred at room temperature for one hour. Subsequently, 8.56 g of magnesium ethoxycarbonylacetate was added to the mixture and the resulting mixture was stirred at the same temperature for 20 hours. The reaction mixture was added to a mixed solvent of 200 ml of ethyl acetate and 300 ml of water and the pH was adjusted to 1 with 6N hydrochloric acid. Thereafter, the organic layer formed was separated, washed successively with a saturated aqueous sodium hydrogencarbonate solution, water and a saturated saline solution and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluent: n-hexane:ethyl acetate=10:1), to obtain 8.95 g of colorless, crystalline ethyl 4-bromo-2,5-di-fluoro-3-methylbenzoylacetate.

reactant | 4-bromo-2,5-difluoro-3-methylbenzoic acid | 10.0 g | BrC1=C(C(=C(C(=O)O)C=C1F)F)C | C8H5BrF2O2
reactant | magnesium ethoxycarbonylacetate | 8.56 g | C(C)OC(=O)CC(=O)[O-].[Mg+2].C(C)OC(=O)CC(=O)[O-]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | ethyl 4-bromo-2,5-di-fluoro-3-methylbenzoylacetate | BrC1=C(C(=C(C(=O)CC(=O)OCC)C=C1F)F)C | C12H11BrF2O3
